US08669234B2
A solution of mCPBA (8.27 g, 36.9 mmol) in 71 mL chloroform was added dropwise over 30 minutes to a solution of dibenzothiophene in 89 mL chloroform at −35° C. The reaction mixture was stirred at −35° C. for 1 hour and then warmed up to room. The reaction was quenched with saturated sodium bicarbonate aqueous solution. The organic layer was washed with saturated sodium bicarbonate solution twice and dried over MgSO4, concentrated down to give an off-white solid. The solid was dissolved in refluxing ethanol and slowly cooled to room temperature to give a white crystalline solid Dibenzothiophene 5-oxide (5.65 g, 76%). LCMS-ESI−: calc'd for C12H8OS: 200.26. Found: 200.9 (M+H+).

reactant | mCPBA | 36.9 mmol, 8.27 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | dibenzothiophene | C1=CC=CC=2SC3=C(C21)C=CC=C3 | C12H8S
reactant | ethanol | C(C)O | C2H6O
solvent | chloroform | 71 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 89 mL | C(Cl)(Cl)Cl | CHCl3
product | Dibenzothiophene 5-oxide | 5.65 g, 76% | C1=CC=CC=2S(C3=C(C21)C=CC=C3)=O | C12H8OS
